US07960375B2
1-(4-Amino-3-methylphenyl)-8-chloro-4-methyl-3H-2,3-benzodiazepine-3-carboxylic acid methyl amide
10.89 g (28 mmoles) 8-chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-3H-2,3-benzodiazepine 3-carboxylic acid methyl amide are dissolved in the mixture of 190 ml of methanol and 95 ml of dichloromethane, and about 5.0 g of wet Raney nickel catalyst and 3.5 ml (70 mmoles) of 98% hydrazine hydrate are subsequently added to it under vigorous stirring. The mixture is stirred for further 1 hour, the catalyst is filtered off, washed with dichloro-methane, the filtrate is evaporated and the residue is solidified by rubbing with 100 ml of water. The crude product is recrystallized from ethanol. Thus 7.73 g (78%) of the desired compound melting at 210-212° C. are obtained.

reactant | 8-chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-3H-2,3-benzodiazepine 3-carboxylic acid methyl amide | 28 mmoles, 10.89 g | CNC(=O)N1N=C(C2=C(C=C1C)C=CC(=C2)Cl)C2=CC(=C(C=C2)[N+](=O)[O-])C | C19H17ClN4O3
reactant | hydrazine hydrate | 70 mmoles, 3.5 ml | O.NN
solvent | methanol | 190 ml | CO | CH4O
solvent | dichloromethane | 95 ml | ClCCl | CH2Cl2
catalyst | Raney nickel | about 5.0 g | [Ni] | Ni
product | 1-(4-Amino-3-methylphenyl)-8-chloro-4-methyl-3H-2,3-benzodiazepine-3-carboxylic acid methyl amide | 7.73 g, 78% | CNC(=O)N1N=C(C2=C(C=C1C)C=CC(=C2)Cl)C2=CC(=C(C=C2)N)C | C19H19ClN4O
